US07081461B1
A suspension of ethyl 3-methoxy-4-(3-morpholinopropoxy)-6-nitrobenzoate (132.2 g, 359 mmol) and 10% palladium on carbon (3.0 g) in a mixture of ethanol (200 ml) and ethyl acetate (2000 ml) was stirred under an atmosphere of hydrogen for 18 hours. Removal of the catalyst by filtration, followed by solvent evaporation in vacuo yielded ethyl 3-methoxy-4-(3-morpholinopropoxy)-6-aminobenzoate (122 g, 100% yield) as a brown oil:

reactant | ethyl 3-methoxy-4-(3-morpholinopropoxy)-6-nitrobenzoate | 359 mmol, 132.2 g | COC=1C=C(C(=O)OCC)C(=CC1OCCCN1CCOCC1)[N+](=O)[O-] | C17H24N2O7
catalyst | palladium on carbon | 3.0 g | [Pd] | Pd
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethyl acetate | 2000 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 3-methoxy-4-(3-morpholinopropoxy)-6-aminobenzoate | 122 g, 100% yield | COC=1C=C(C(=O)OCC)C(=CC1OCCCN1CCOCC1)N | C17H26N2O5
